US05646173
1.4 ml of methanesulfonyl chloride were added dropwise while stirring to a solution, cooled to 0° C., of 2.25 g of (R)-1-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-propan-2-ol and 5 ml of triethyl-amine in 60 ml of dichloromethane and the mixture was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 300 ml of diethyl ether, washed twice with 100 ml of saturated sodium hydrogen carbonate solution and the combined aqueous phases were extracted once with 100 ml of diethyl ether. The combined organic phases were washed with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The brown oil obtained was dissolved in 50 ml of anhydrous dimethyl formamide, treated with 1.17 g of sodium azide and the reaction mixture was heated to 60° for 15 hours while stirring. After cooling, the solution was poured into 140 ml of water and extracted twice with 140 ml of diethyl ether each time. The combined organic phases were washed once with 100 ml of water and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (toluene). 1.78 g (71%) of (S)-1-(2-azido-propyl)-4,5-dihydro-8-methoxy-1H-benz[g]indole were obtained as a colorless oil.

reactant | methanesulfonyl chloride | 1.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (R)-1-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-propan-2-ol | 2.25 g | COC1=CC2=C(CCC=3C=CN(C23)C[C@@H](C)O)C=C1 | C16H19NO2
reactant | triethyl-amine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 1.17 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 140 ml | O | H2O
product | (S)-1-(2-azido-propyl)-4,5-dihydro-8-methoxy-1H-benz[g]indole | 1.78 g, 71% | N(=[N+]=[N-])[C@H](CN1C=CC=2CCC3=C(C12)C=C(C=C3)OC)C | C16H18N4O
